US08664220B2
Step 1: 2-Bromo-6-cyclopentylethynyl-pyridine
2,6-Dibromo-pyridine (0.544 g, 2.34 mmol), cyclopentylacetylene (0.220 g, 2.34 mmol), copper(I) iodide (0.445 g, 2.34 mmol), triethylamine (0.98 mL, 7.01 mmol) and bis(triphenylphosphine)palladium(II) dichloride (0.164 g, 0.023 mmol) were combined in DMF and stirred at room temperature for 2 days. The reaction was purified via silica gel chromatography to afford the title compound.

reactant | 2,6-Dibromo-pyridine | 2.34 mmol, 0.544 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | cyclopentylacetylene | 2.34 mmol, 0.220 g | C1(CCCC1)C#C | C7H10
reactant | triethylamine | 7.01 mmol, 0.98 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 2.34 mmol, 0.445 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.023 mmol, 0.164 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Bromo-6-cyclopentylethynyl-pyridine | BrC1=NC(=CC=C1)C#CC1CCCC1 | C12H12BrN
